US07816513B2
Synthesis of 2′,3′-didehydro-2′,3′-dideoxyinosine (D4I)
To a 1,4-dioxane solution containing N-ethylpiperidine hypophosphite (1.25 mL, 2.2 mmol) at a concentration of 1.764 mol/L, a mixed solution of a tetrahydrofuran solution (2 mL) of 2′,3′-bis-O-[(methylthio)thiocarbonyl]inosine (99 mg, 0.22 mmol) and a triethylborane hexane solution (0.22 mL, 0.22 mmol) at a concentration of 1.0 mol/L was added, and the obtained mixture was stirred at room temperature for one hour. The obtained reaction mixture was diluted with ethyl acetate. The resultant organic layer was washed with brine solution, and thereafter dried over anhydrous magnesium sulfate and concentrated under reduced pressure. After purification by chromatography (using as eluting solutions a mixed solvent of hexane and ethyl acetate (3:7), ethyl acetate, and a mixed solvent of dichloromethane and methanol (10:1) successively in this order), 47 mg of the intended product was obtained in a yield of 92%.

reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | N-ethylpiperidine hypophosphite | 2.2 mmol, 1.25 mL | [PH2](=O)O.C(C)N1CCCCC1
reactant | 2′,3′-bis-O-[(methylthio)thiocarbonyl]inosine | 0.22 mmol, 99 mg | CSC(=S)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(=S)SC)CO)N1C=NC=2C(O)=NC=NC12 | C14H16N4O5S4
reactant | triethylborane hexane | 0.22 mmol, 0.22 mL | CCCCCC.C(C)B(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2′,3′-didehydro-2′,3′-dideoxyinosine | 47 mg, yield of 92% | [C@@H]1(C=C[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H10N4O3
